US05217952
To a solution of O-methoxymethyl-N-methyl-N-(2-nitrophenylthio)-β-benzoyloxytyrosine methyl ester (threo isomer) (4.94 g) in dichloromethane (50 ml) were added thiophenol (4.8 ml) and trifluoroacetic acid (2.5 ml) at 0° C. After stirring for 30 minutes, sodium bicarbonate aqueous solution was added to the mixture. The organic layer was washed with sodium bicarbonate aqueous solution and brine. After evaporating, the residue was put on a column of silica gel (MERCK 7734, 100 g) and eluted with 5% methanol in chloroform to give O-methoxymethyl-N-methyl-β-benzoyloxytyrosine methyl ester (threo isomer) (0.32 g).

reactant | O-methoxymethyl-N-methyl-N-(2-nitrophenylthio)-β-benzoyloxytyrosine methyl ester | 4.94 g | COC([C@@H](N(SC1=C(C=CC=C1)[N+](=O)[O-])C)C(C1=CC=C(C=C1)OCOC)OC(C1=CC=CC=C1)=O)=O | C26H26N2O8S
reactant | thiophenol | 4.8 ml | C1(=CC=CC=C1)S | C6H6S
reactant | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | O-methoxymethyl-N-methyl-β-benzoyloxytyrosine methyl ester | 0.32 g | COC([C@@H](NC)C(C1=CC=C(C=C1)OCOC)OC(C1=CC=CC=C1)=O)=O | C20H23NO6
